US20010021718A1
tert-Butyl (3R)-6-cyclohexyl-3-(3-{[4-(4-pyridinyl)-1-piperidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate
A solution of ethyl 5-{(1R)-1 -[2-(tert-butoxy)-2-oxoethyl]4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate (Preparation 3) (0.50 g, 1.27 mmol) in ethanol (10 ml) was treated with 4-(4-pyridinyl)piperidine (Monatsh.Chem.; 3; 1882; 867) (0.41 g, 2.54 mmol) and the resulting mixture was heated under reflux under a nitrogen atmosphere for 72 hours. Further 4-(4-pyridinyl)piperidine (0.21 g, 1.27 mmol) was added and the mixture heated under reflux for 24 hours. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and water. The layers were separated and the aqueous layer extracted with ethyl acetate. The combined organic layers were washed sequentially with water and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (99:1) gradually changing to dichloromethane:methanol (95:5) to afford the title compound as a pale yellow oil (0.39 g).

reactant | ethyl 5-{(1R)-1 -[2-(tert-butoxy)-2-oxoethyl]4-cyclohexylbutyl}-1,2,4-oxadiazole-3-carboxylate | 1.27 mmol, 0.50 g | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)OCC)=O | C21H34N2O5
reactant | 4-(4-pyridinyl)piperidine | 2.54 mmol, 0.41 g | N1=CC=C(C=C1)C1CCNCC1 | C10H14N2
reactant | 4-(4-pyridinyl)piperidine | 1.27 mmol, 0.21 g | N1=CC=C(C=C1)C1CCNCC1 | C10H14N2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | tert-Butyl (3R)-6-cyclohexyl-3-(3-{[4-(4-pyridinyl)-1-piperidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoate | 0.39 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)C(=O)N1CCC(CC1)C1=CC=NC=C1 | C29H42N4O4
